US04420482
1,4-bis(2-(Acetylsalicyloyloxy)Propyl)Piperazine
Dissolve acetylsalicylic anhydride (17.1 g; 0.05 moles) in an apolar organic solvent represented for example by ethyl acetate; add 1,4-bis-(2-hydroxypropyl)piperazine (5.06 g; 0.025 moles) to the solution, and heat up to the boiling point until the reaction is completed. After cooling at room temperature, wash the reaction mixture with a 5 percent aqueous solution of potassium carbonate, and then with water. Anhydrify the organic phase (K2CO3), filter, and treat it with anhydrous hydrochloric acid dissolved in diethylether causing by this procedure the precipitation of the raw product that, after collection and drying, can be recrystallized from a low molecular weight alcohol.

reactant | acetylsalicylic anhydride | 0.05 moles, 17.1 g | C(C)(=O)OC=1C(C(=O)OC(C=2C(OC(C)=O)=CC=CC2)=O)=CC=CC1 | C18H14O7
reactant | 1,4-bis-(2-hydroxypropyl)piperazine | 0.025 moles, 5.06 g | OC(CN1CCN(CC1)CC(C)O)C | C10H22N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,4-bis(2-(Acetylsalicyloyloxy)Propyl)Piperazine | C(C)(=O)OC=1C(C(=O)OC(CN2CCN(CC2)CC(C)OC(C=2C(OC(C)=O)=CC=CC2)=O)C)=CC=CC1 | C28H34N2O8
